US07365076B2
1-[1-(3′-cyano-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride
In an analogous manner to Example 135, step 4, 1-[1-(3′-cyano-111′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride was prepared from tert-butyl 4-[2-(3′-cyano-1,1′-biphenyl-4-yl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate. MS (ES) m/z 390.3 ([M+H]+); HRMS: calcd for C25H31N3O.2.00 HCl, 461.2001; found (ESI), 390.2532.

reactant | tert-butyl 4-[2-(3′-cyano-1,1′-biphenyl-4-yl)-2-(1-hydroxycyclohexyl)ethyl]piperazine-1-carboxylate | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1(CCCCC1)O | C30H39N3O3
reactant | HCl | Cl | ClH
product | 1-[1-(3′-cyano-1,1′-biphenyl-4-yl)-2-piperazin-1-ylethyl]cyclohexanol dihydrochloride | Cl.Cl.C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)C(CN1CCNCC1)C1(CCCCC1)O | InChI=1S/C25H31N3O.2ClH/c26-18-20-5-4-6-23(17-20)21-7-9-22(10-8-21)24(19-28-15-13-27-14-16-28)25(29)11-2-1-3-12-25;;/h4-10,17,24,27,29H,1-3,11-16,19H2;2*1H
